US04440927
6(S)-[2-(2,4-dichlorophenyl)-ethyl]-2-ethoxy-4(R)-hydroxy-3,4,5,6-tetrahydro-2H-pyran (0.305 g, 1 mmole) is dissolved in 80% aqueous acetic acid (5 ml) and heated at 70° to 80° for 2 hours. When tlc shows that, the reaction is complete, (if necessary the reaction may be heated at 90° bath temp. for 2 hours). The reaction solution is dissolved in ether and extracted with water, then dilute sodium hydroxide, until washings are basic, and then with water. The ether layer is dried (MgSO4), filtered, and the solvent is evaporated in vacuo to leave 6(S)-[2-(2,4-dichlorophenyl)ethyl]-2-hydroxy-4(R)-hydroxy-3,4,5,6-tetrahydro-2H-pyran.

reactant | 6(S)-[2-(2,4-dichlorophenyl)-ethyl]-2-ethoxy-4(R)-hydroxy-3,4,5,6-tetrahydro-2H-pyran | 1 mmole, 0.305 g | ClC1=C(C=CC(=C1)Cl)CC[C@H]1C[C@H](CC(O1)OCC)O | C15H20Cl2O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 6(S)-[2-(2,4-dichlorophenyl)ethyl]-2-hydroxy-4(R)-hydroxy-3,4,5,6-tetrahydro-2H-pyran | ClC1=C(C=CC(=C1)Cl)CC[C@H]1C[C@H](CC(O1)O)O | C13H16Cl2O3
